* SPICE export by:      S-Edit 2022.2.3
* Export time:          Sat May 18 20:39:22 2024
* Design path:          /home/vlsi/Desktop/final_fullCustom/S_DES/lib.defs
* Library:              FinalHHAF
* Cell:                 Feistel
* Testbench:            Spice
* View:                 schematic
* Export as:            subcircuit definition
* Export mode:          hierarchical
* Exclude empty:        no
* Exclude .model:       no
* Exclude .hdl:         no
* Exclude .end:         no
* Expand paths:         no
* Wrap lines:           no
* Exclude simulator commands:  no
* Exclude global pins:         no
* Exclude instance locations:  no
* Control property name(s):    LVS SPICE

.SUBCKT NMOS25 D G S B
.ENDS
.SUBCKT PMOS25 D G S B
.ENDS
.SUBCKT NMOS33 D G S B
.ENDS
.SUBCKT PMOS33 D G S B
.ENDS

*************** Subcircuits ***************
.subckt OR In1 In2 In3 In4 In5 In6 In7 Out Gnd Vdd 
* Library name: FinalHHAF
* Cell name: OR
* View name: schematic
* PORT=In4 TYPE=In
* PORT=In5 TYPE=In
* PORT=In6 TYPE=In
* PORT=Out TYPE=Out
* PORT=In7 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=In1 TYPE=In
* PORT=In2 TYPE=In
* PORT=In3 TYPE=In

MMn1 Out In3 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=3500 $y=1600 $w=400 $h=600
MMn2 Out In7 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=9200 $y=1600 $w=400 $h=600
MMn3 Out In2 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=2100 $y=1600 $w=400 $h=600
MMn4 Out In1 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=700 $y=1600 $w=400 $h=600
MMn5 Out In4 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=1600 $w=400 $h=600
MMn6 Out In5 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=6300 $y=1600 $w=400 $h=600
MMn7 Out In6 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=7700 $y=1600 $w=400 $h=600
MMp1 N_1 In1 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=6000 $w=400 $h=600
MMp2 N_2 In2 N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=5400 $w=400 $h=600
MMp3 N_3 In3 N_2 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=4800 $w=400 $h=600
MMp4 N_4 In4 N_3 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=4200 $w=400 $h=600
MMp5 N_5 In5 N_4 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3600 $w=400 $h=600
MMp6 N_6 In6 N_5 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=3000 $w=400 $h=600
MMp7 Out In7 N_6 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4600 $y=2400 $w=400 $h=600
.ends

.subckt INV In Out Gnd Vdd 
* Library name: Midterm_HHAF
* Cell name: INV
* View name: schematic
* PORT=In TYPE=In
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other

MMn1 Out In Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=2900 $w=400 $h=600
MMp1 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=4900 $w=400 $h=600
.ends

.subckt Nand_gate In1 In2 Out Gnd Vdd 
* Library name: Midterm_HHAF
* Cell name: Nand_gate
* View name: schematic
* PORT=Gnd TYPE=Other
* PORT=In2 TYPE=In
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=In1 TYPE=In

MMn1 Out In1 N_1 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=2700 $w=400 $h=600
MMn2 N_1 In2 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4000 $y=1500 $w=400 $h=600
MMp1 Out In2 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5600 $y=5000 $w=400 $h=600
MMp2 Out In1 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=3000 $y=5000 $w=400 $h=600
.ends

.subckt inverter In Out Gnd Vdd 
* Library name: LPC_ALU
* Cell name: inverter
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=Out TYPE=Out
* PORT=In TYPE=In

MMn2 Out In Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4500 $y=3400 $w=400 $h=600
MMp2 Out In Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4500 $y=4100 $w=400 $h=600
.ends

.subckt AND_Final A B Out Gnd Vdd 
* Library name: S_DES
* Cell name: AND_Final
* View name: schematic
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=B TYPE=In
* PORT=A TYPE=In

Xinverter_1 N_1 Out Gnd Vdd inverter $ $x=5200 $y=2950 $w=1800 $h=900
XNand_gate_1 B A N_1 Gnd Vdd Nand_gate $ $x=3100 $y=2900 $w=1800 $h=1000
.ends

.subckt nor_2 A B Out Gnd Vdd 
* Library name: LPC_ALU
* Cell name: nor_2
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=A TYPE=In
* PORT=Gnd TYPE=Other
* PORT=B TYPE=In
* PORT=Out TYPE=Out

MMn1 Out A Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=4200 $y=2600 $w=400 $h=600
MMn2 Out B Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5500 $y=2600 $w=400 $h=600
MMp1 N_1 A Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=5100 $w=400 $h=600
MMp2 Out B N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=4900 $y=4400 $w=400 $h=600
.ends

.subckt Decoder_2to4 A0 A1 D0 D1 D2 D3 Gnd Vdd 
* Library name: LPC_ALU
* Cell name: Decoder_2to4
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=A1 TYPE=In
* PORT=D1 TYPE=Out
* PORT=D2 TYPE=Out
* PORT=A0 TYPE=In
* PORT=D3 TYPE=Out
* PORT=D0 TYPE=Out

Xinverter_1 A0 N_1 Gnd Vdd inverter $ $x=1950 $y=5200 $w=900 $h=1800 $r=90
Xinverter_2 A1 N_2 Gnd Vdd inverter $ $x=3150 $y=5200 $w=900 $h=1800 $r=90
Xnor_2_1 A1 A0 D0 Gnd Vdd nor_2 $ $x=7300 $y=4200 $w=1800 $h=600
Xnor_2_2 A1 N_1 D1 Gnd Vdd nor_2 $ $x=7300 $y=3100 $w=1800 $h=600
Xnor_2_3 A0 N_2 D2 Gnd Vdd nor_2 $ $x=7300 $y=2100 $w=1800 $h=600
Xnor_2_4 N_1 N_2 D3 Gnd Vdd nor_2 $ $x=7300 $y=1000 $w=1800 $h=600
.ends

.subckt Decode2x4_E A0 A1 E O0 O1 O2 O3 Gnd Vdd 
* Library name: S_DES
* Cell name: Decode2x4_E
* View name: schematic
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=O0 TYPE=Out
* PORT=O3 TYPE=Out
* PORT=O2 TYPE=Out
* PORT=O1 TYPE=Out
* PORT=E TYPE=InOut
* PORT=A1 TYPE=In
* PORT=A0 TYPE=In

XAND_1 N_4 E O3 Gnd Vdd AND_Final $ $x=6650 $y=3650 $w=900 $h=500
XAND_2 N_3 E O2 Gnd Vdd AND_Final $ $x=6650 $y=2750 $w=900 $h=500
XAND_3 N_2 E O1 Gnd Vdd AND_Final $ $x=6650 $y=1850 $w=900 $h=500
XAND_4 N_1 E O0 Gnd Vdd AND_Final $ $x=6650 $y=950 $w=900 $h=500
XDecoder_2to4_1 A0 A1 N_1 N_2 N_3 N_4 Gnd Vdd Decoder_2to4 $ $x=2306 $y=3550 $w=900 $h=700
.ends

.subckt Decode4x16 A0 A1 A2 A3 O0 O1 O2 O3 O4 O5 O6 O7 O8 O9 O10 O11 O12 O13 O14 O15 Gnd Vdd 
* Library name: S_DES
* Cell name: Decode4x16
* View name: schematic
* PORT=O12 TYPE=Out
* PORT=A3 TYPE=In
* PORT=O0 TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=O15 TYPE=Out
* PORT=O14 TYPE=Out
* PORT=O13 TYPE=Out
* PORT=O7 TYPE=Out
* PORT=O3 TYPE=Out
* PORT=O6 TYPE=Out
* PORT=O5 TYPE=Out
* PORT=O1 TYPE=Out
* PORT=O2 TYPE=Out
* PORT=A1 TYPE=In
* PORT=O9 TYPE=Out
* PORT=A0 TYPE=In
* PORT=O8 TYPE=Out
* PORT=A2 TYPE=In
* PORT=O4 TYPE=Out
* PORT=O11 TYPE=Out
* PORT=O10 TYPE=Out

XDecode2x4_E_1 A0 A1 N_1 O0 O1 O2 O3 Gnd Vdd Decode2x4_E $ $x=5100 $y=5600 $w=900 $h=900
XDecode2x4_E_2 A0 A1 N_2 O4 O5 O6 O7 Gnd Vdd Decode2x4_E $ $x=5100 $y=4200 $w=900 $h=900
XDecode2x4_E_3 A0 A1 N_3 O8 O9 O10 O11 Gnd Vdd Decode2x4_E $ $x=5100 $y=2750 $w=900 $h=900
XDecode2x4_E_4 A0 A1 N_4 O12 O13 O14 O15 Gnd Vdd Decode2x4_E $ $x=5200 $y=1300 $w=900 $h=900
XDecoder_2to4_1 A2 A3 N_1 N_2 N_3 N_4 Gnd Vdd Decoder_2to4 $ $x=1700 $y=2650 $w=900 $h=700 $r=180 $m
.ends

.subckt S0_BOX S0_In0 S0_In1 S0_In2 S0_In3 S0_Out<0> S0_Out<1> Gnd Vdd 
* Library name: FinalHHAF
* Cell name: S0_BOX
* View name: schematic
* PORT=S0_In3 TYPE=In
* PORT=S0_In2 TYPE=In
* PORT=S0_In1 TYPE=In
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=S0_Out<1> TYPE=Out
* PORT=S0_Out<0> TYPE=Out
* PORT=S0_In0 TYPE=In

XDecode4x16_1 S0_In0 S0_In1 S0_In2 S0_In3 O<0> O<1> O<2> O<3> O<4> O<5> O<6> O<7> O<8> O<9> O<10> O<11> O<12> O<13> O<14> O<15> Gnd Vdd Decode4x16 $ $x=6100 $y=9700 $w=1800 $h=3800
XInverter_1 N_1 S0_Out<0> Gnd Vdd INV $ $x=7400 $y=4600 $w=1800 $h=1000
XInverter_2 N_2 S0_Out<1> Gnd Vdd INV $ $x=7400 $y=1600 $w=1800 $h=1000
XOR_1 O<8> O<7> O<2> O<15> O<10> O<6> O<3> N_1 Gnd Vdd OR $ $x=5500 $y=4900 $w=1800 $h=2000
XOR_2 O<12> O<11> O<8> O<7> O<5> O<2> O<0> N_2 Gnd Vdd OR $ $x=5500 $y=1900 $w=1800 $h=2000
.ends

.subckt S1_Box S1_In0 S1_In1 S1_In2 S1_In3 S1_Out0 S1_Out1 Gnd Vdd 
* Library name: FinalHHAF
* Cell name: S1_Box
* View name: schematic
* PORT=S1_In0 TYPE=In
* PORT=S1_Out0 TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=S1_In1 TYPE=In
* PORT=S1_Out1 TYPE=Out
* PORT=S1_In3 TYPE=In
* PORT=S1_In2 TYPE=In

XDecode4x16_1 S1_In0 S1_In1 S1_In2 S1_In3 O1<0> O1<1> O1<2> O1<3> O1<4> O1<5> O1<6> O1<7> O1<8> O1<9> O1<10> O1<11> O1<12> O1<13> O1<14> O1<15> Gnd Vdd Decode4x16 $ $x=5700 $y=9500 $w=1800 $h=3800
XINV_1 N_2 S1_Out1 Gnd Vdd INV $ $x=6750 $y=1900 $w=1800 $h=1000
XINV_2 N_1 S1_Out0 Gnd Vdd INV $ $x=6800 $y=5300 $w=1800 $h=1000
XOR_1 O1<15> O1<8> O1<7> O1<6> O1<11> O1<5> O1<2> N_1 Gnd Vdd OR $ $x=4800 $y=5600 $w=1800 $h=2000
XOR_2 O1<15> O1<9> O1<8> O1<7> O1<6> O1<4> O1<1> N_2 Gnd Vdd OR $ $x=4800 $y=2200 $w=1800 $h=2000
.ends

.subckt XOR In1 In2 Out Gnd Vdd 
* Library name: Midterm_HHAF
* Cell name: XOR
* View name: schematic
* PORT=In2 TYPE=In
* PORT=Out TYPE=Out
* PORT=Vdd TYPE=Other
* PORT=Gnd TYPE=Other
* PORT=In1 TYPE=In

XINV_1 In1 N_5 Gnd Vdd INV $ $x=2700 $y=6000 $w=1800 $h=1000
XINV_2 In2 N_6 Gnd Vdd INV $ $x=1800 $y=700 $w=1800 $h=1000
MMn1 N_4 In2 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5200 $y=1900 $w=400 $h=600
MMn2 N_2 N_6 Gnd Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=7800 $y=1800 $w=400 $h=600
MMn3 Out N_5 N_2 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=7800 $y=2800 $w=400 $h=600
MMn4 Out In1 N_4 Gnd NMOS25 w=750n l=250n m=1 ad=487.5f pd=2.8u as=487.5f ps=2.8u nrd=866.66667m nrs=866.66667m mult=1 delvto=0 mulu0=1 $ $x=5200 $y=2900 $w=400 $h=600
MMp1 Out N_6 N_1 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5200 $y=4100 $w=400 $h=600
MMp2 N_1 In1 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=5200 $y=5200 $w=400 $h=600
MMp3 Out In2 N_3 Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=7800 $y=4100 $w=400 $h=600
MMp4 N_3 N_5 Vdd Vdd PMOS25 w=1.5u l=250n m=1 ad=975f pd=4.3u as=975f ps=4.3u nrd=433.33333m nrs=433.33333m mult=1 delvto=0 mulu0=1 $ $x=7800 $y=5100 $w=400 $h=600
.ends

.subckt Feistel F_Out<0> F_Out<1> F_Out<2> F_Out<3> In<0> In<1> In<2> In<3> In<4> In<5> In<6> In<7> key<0> key<1> key<2> key<3> key<4> key<5> key<6> key<7> Gnd Vdd 
* Library name: FinalHHAF
* Cell name: Feistel
* View name: schematic
* PORT=In<1> TYPE=InOut
* PORT=In<3> TYPE=InOut
* PORT=In<4> TYPE=InOut
* PORT=In<0> TYPE=InOut
* PORT=In<7> TYPE=InOut
* PORT=Gnd TYPE=Other
* PORT=key<6> TYPE=In
* PORT=Vdd TYPE=Other
* PORT=F_Out<2> TYPE=InOut
* PORT=F_Out<3> TYPE=InOut
* PORT=key<0> TYPE=In
* PORT=key<3> TYPE=In
* PORT=key<2> TYPE=In
* PORT=key<1> TYPE=In
* PORT=In<2> TYPE=InOut
* PORT=F_Out<1> TYPE=InOut
* PORT=key<7> TYPE=In
* PORT=key<5> TYPE=In
* PORT=key<4> TYPE=In
* PORT=F_Out<0> TYPE=InOut
* PORT=In<6> TYPE=InOut
* PORT=In<5> TYPE=InOut

XS0_BOX_1 S0_In<0> S0_In<1> S0_In<2> S0_In<3> S0_Out<0> S0_Out<1> Gnd Vdd S0_BOX $ $x=6000 $y=3650 $w=900 $h=700
XS1_Box_1 S1_In<0> S1_In<1> S1_In<2> S1_In<3> S1_Out<0> S1_Out<1> Gnd Vdd S1_Box $ $x=5850 $y=7050 $w=900 $h=700
XXOR_1 In<4> key<7> S1_In<3> Gnd Vdd XOR $ $x=2100 $y=11300 $w=1800 $h=1000
XXOR_2 In<7> key<6> S1_In<2> Gnd Vdd XOR $ $x=2100 $y=10100 $w=1800 $h=1000
XXOR_3 In<4> key<1> S0_In<1> Gnd Vdd XOR $ $x=2100 $y=4100 $w=1800 $h=1000
XXOR_4 In<7> key<0> S0_In<0> Gnd Vdd XOR $ $x=2100 $y=2900 $w=1800 $h=1000
XXOR_5 In<6> key<5> S1_In<1> Gnd Vdd XOR $ $x=2100 $y=8900 $w=1800 $h=1000
XXOR_6 In<5> key<4> S1_In<0> Gnd Vdd XOR $ $x=2100 $y=7700 $w=1800 $h=1000
XXOR_7 In<5> key<2> S0_In<2> Gnd Vdd XOR $ $x=2100 $y=5300 $w=1800 $h=1000
XXOR_8 In<3> S0_Out<0> F_Out<3> Gnd Vdd XOR $ $x=9600 $y=6600 $w=1800 $h=1000
XXOR_9 In<2> S1_Out<0> F_Out<2> Gnd Vdd XOR $ $x=9600 $y=9600 $w=1800 $h=1000
XXOR_10 In<6> key<3> S0_In<3> Gnd Vdd XOR $ $x=2100 $y=6500 $w=1800 $h=1000
XXOR_11 In<1> S1_Out<1> F_Out<1> Gnd Vdd XOR $ $x=9600 $y=8300 $w=1800 $h=1000
XXOR_12 In<0> S0_Out<1> F_Out<0> Gnd Vdd XOR $ $x=9600 $y=5300 $w=1800 $h=1000
.ends



